US07834008B2
(3,4-Difluoro-phenyl)acetic acid allyl ester (64 g) was dissolved in acetonitrile (400 mL) and 4-acetamidobenzenesulfonyl azide (p-ABSA, 87 g, 0.36 mol) was added and the mixture stirred at room temperature for 15 min. The mixture was then cooled to 0° C. and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 58.6 mL) was added dropwise at 0° C. during 30 min. The mixture was allowed to warm up to rt (room temperature) and stirred at rt for 4-20 h (until TLC showed completion of reaction). Saturated ammonium chloride (500 mL) was added and the organic phase was separated from the water phase. The water phase was extracted with diethylether (3×200 mL) and the four combined organic phases were dried (Magnesium sulphate) and evaporated in vacuo. The resulting solid was extracted with a 50:50 mixture of diethylether/pentane (3×200 mL). The combined ether phases were evaporated in vacuo (keep temperature below 40°) and purified by flash column chromatography (silicagel, eluent: 10:90 mixture of diethylether/pentane). The yellow fractions were combined and evaporated in vacuo (keep temperature below 40°) to give 70 g diazo-(3,4-Difluoro-phenyl)acetic acid allyl ester.

reactant | (3,4-Difluoro-phenyl)acetic acid allyl ester | 64 g | C(C=C)OC(CC1=CC(=C(C=C1)F)F)=O | C11H10F2O2
reactant | 4-acetamidobenzenesulfonyl azide | 0.36 mol, 87 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 58.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | diazo-(3,4-Difluoro-phenyl)acetic acid allyl ester | 70 g | C(C=C)OC(C(C1=CC(=C(C=C1)F)F)=[N+]=[N-])=O | C11H8F2N2O2
